US08729102B2
G) N-{(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)-3-fluorophenoxy]-1-methylethyl}acetamide monohydrate
A mixture of tert-butyl {(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)-3-fluorophenoxy]-1-methylethyl}carbamate (6.53 g), 4M hydrogen chloride/ethyl acetate (20 mL) and ethyl acetate (40 mL) was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was mixed with acetic anhydride (20 mL) and pyridine (50 mL). The obtained mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with THF and ethyl acetate, and the mixture was washed three times with 1M hydrochloric acid. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol, and the solution was filtered through silica gel. The filtrate was concentrated, and the residue was recrystallized (ethanol/ethyl acetate) to give the title compound as colorless crystals (2.36 g).

reactant | tert-butyl {(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)-3-fluorophenoxy]-1-methylethyl}carbamate | 6.53 g | C(C)OC=1C=CC2=CN(N=C2C1)C1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C23H28FN3O4
reactant | hydrogen chloride ethyl acetate | 4M, 20 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | N-{(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)-3-fluorophenoxy]-1-methylethyl}acetamide monohydrate | 2.36 g | O.C(C)OC=1C=CC2=CN(N=C2C1)C1=C(C=C(OC[C@H](C)NC(C)=O)C=C1)F | InChI=1S/C20H22FN3O3.H2O/c1-4-26-17-6-5-15-11-24(23-19(15)10-17)20-8-7-16(9-18(20)21)27-12-13(2)22-14(3)25;/h5-11,13H,4,12H2,1-3H3,(H,22,25);1H2/t13-;/m0./s1
